US06313122B1
B. 2-[[(1-Methylpyridinium-4-yl)carbonyl]amino]-N-(4-chlorophenyl)benzamide Iodide
To a stirring solution of 2-(4-pyridinecarbonyl)amino-N-(4-chlorophenyl)benzamide (500 mg, 1.42 mmol) in DMF (10 mL) was added methyl iodide (3 mL, 48 mmol). After 48 h, the precipitate was filtered, washed with diethyl ether and dried in vacuo to give 416 mg (59%) of the title compound.

reactant | 2-(4-pyridinecarbonyl)amino-N-(4-chlorophenyl)benzamide | 1.42 mmol, 500 mg | N1=CC=C(C=C1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | C19H14ClN3O2
reactant | methyl iodide | 48 mmol, 3 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[[(1-Methylpyridinium-4-yl)carbonyl]amino]-N-(4-chlorophenyl)benzamide Iodide | 416 mg, 59% | [I-].C[N+]1=CC=C(C=C1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | InChI=1S/C20H16ClN3O2.HI/c1-24-12-10-14(11-13-24)19(25)23-18-5-3-2-4-17(18)20(26)22-16-8-6-15(21)7-9-16;/h2-13H,1H3,(H-,22,23,25,26);1H
